US08871753B2
Step A. 2-Iodo-1-methoxy-4-nitrobenzene
2-Methoxy-5-nitroaniline (10.0 g, 0.060 mol) was stirred in water (150 mL) and concentrated (conc.) sulfuric acid (12 mL, 0.22 mol). The solution was cooled below 5° C. with an ice-salt bath, and a solution of sodium nitrite (4.8 g, 0.070 mol) in water (40 mL) was added dropwise while maintaining the temperature below 5° C. A solution of potassium iodide (16.8 g, 0.101 mol) was added and the mixture was heated to 90° C. for 1 hour. Cooling to 0° C. gave dark red crystals which were filtered, washed with water, and dried. Purification by silica gel chromatography using ethyl acetate/hexanes gave the desired compound (13.6 g, 75%). 1H NMR (300 MHz, DMSO-d6): δ 8.57 (s, 1H), 8.28 (d, 1H), 7.19 (d, 1H), 3.98 (s, 3H). LCMS for C7H7INO3 (M+H)+: m/z=280.1.

reactant | 2-Methoxy-5-nitroaniline | 0.060 mol, 10.0 g | COC1=C(N)C=C(C=C1)[N+](=O)[O-] | C7H8N2O3
reactant | sulfuric acid | 0.22 mol, 12 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 0.070 mol, 4.8 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 0.101 mol, 16.8 g | [I-].[K+]
solvent | water | 150 mL | O | H2O
solvent | water | 40 mL | O | H2O
product | 2-Iodo-1-methoxy-4-nitrobenzene | 13.6 g, 75% | IC1=C(C=CC(=C1)[N+](=O)[O-])OC | C7H6INO3
